US07112584B2
(+)-6-[4-(5-Fluorobenzoxazol-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-4-methyl-2,3-benzoxazin-1-one.
103 mg of (−)-6-[4-(5-fluoro-2-hydroxy-3-nitrophenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroyl-amino]-4-methyl-2,3-benzoxazin-1-one in 5 ml of tetrahydrofuran and 1 ml of acetic acid are stirred for 2.5 hours with 300 mg of iron, mixed with 0.5 ml of orthoformic acid triethyl ester and ethyl acetate, suctioned off and concentrated by evaporation after standing for 4 hours at room temperature. The residue is dissolved in ethyl acetate and mixed with 0.05 ml of orthoformic acid. After 20 hours at room temperature, 72 mg of (+)-6-[4-(5-fluorobenzoxazol-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-4-methyl-2,3-benzoxazin-1-one is suctioned off. MS, flash point 276–277° C., (+)-enantiomer with [α]D+53.0° (c=0.25, THF).

reactant | (−)-6-[4-(5-fluoro-2-hydroxy-3-nitrophenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroyl-amino]-4-methyl-2,3-benzoxazin-1-one | 103 mg | FC=1C=C(C(=C(C1)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)(C(F)(F)F)O)(C)C)O)[N+](=O)[O-] | C22H19F4N3O7
reactant | orthoformic acid triethyl ester | 0.5 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 300 mg | [Fe] | Fe
product | (+)-6-[4-(5-Fluorobenzoxazol-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)valeroylamino]-4-methyl-2,3-benzoxazin-1-one | FC=1C=C(C2=C(N=CO2)C1)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)(C(F)(F)F)O)(C)C | C23H19F4N3O5
